US04839369
2-Carboxymethyl-5-[3-(2-quinolylmethoyloxy)phenyl]tetrazole
A mixture of 1.3 g of 2-carbethoxymethyl-5-[3-(2-quinolylmethyloxy)phenyl]tetrazole in 5 ml ethanol and 40 ml of 1N NaOH was stirred at 70° C. for 4 hours. It was cooled, diluted with water, acidified with acetic acid, filtered, washed with water, and then ethyl acetate to give 1.0 g product.

reactant | 2-carbethoxymethyl-5-[3-(2-quinolylmethyloxy)phenyl]tetrazole | 1.3 g | C(=O)(OCC)CN1N=C(N=N1)C1=CC(=CC=C1)OCC1=NC2=CC=CC=C2C=C1 | C21H19N5O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | NaOH | 1N, 40 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 2-Carboxymethyl-5-[3-(2-quinolylmethoyloxy)phenyl]tetrazole | 1.0 g | C(=O)(O)CN1N=C(N=N1)C1=CC(=CC=C1)OC(=O)C1=NC2=CC=CC=C2C=C1 | C19H13N5O4
